US08703771B2
Step B: (1S)-1-(4-Methylpiperazin-1-yl)-2,3-dihydro-indene-5-carbonyl chloride hydrochloride
SOCl2 (2.5 L) was added to a 5 L three-neck flask. (1S)-1-(4-Methylpiperazin-1-yl)-2,3-dihydro-1H-indene-5-carboxylic acid (1289 g, the actual maximum content of 583 g, equivalent to 2.235 mol) was then added in batches within 1 hour. The solution was heated under reflux overnight and then cooled to room temperature. Most of SOCl2 was removed using rotary evaporator. After ethyl acetate (1.5 L) was added, the solution was cooled to 0° C., filtered with suction to obtain the white solid which was then dried in vacuum to get the title compound (about 1325 g, 100% yield).

reactant | SOCl2 | 2.5 L | O=S(Cl)Cl | Cl2OS
reactant | (1S)-1-(4-Methylpiperazin-1-yl)-2,3-dihydro-1H-indene-5-carboxylic acid | CN1CCN(CC1)[C@H]1CCC2=CC(=CC=C12)C(=O)O | C15H20N2O2
product | (1S)-1-(4-Methylpiperazin-1-yl)-2,3-dihydro-indene-5-carbonyl chloride hydrochloride | about 1325 g, 100% yield | Cl.CN1CCN(CC1)[C@H]1CCC2=CC(=CC=C12)C(=O)Cl | InChI=1S/C15H19ClN2O.ClH/c1-17-6-8-18(9-7-17)14-5-3-11-10-12(15(16)19)2-4-13(11)14;/h2,4,10,14H,3,5-9H2,1H3;1H/t14-;/m0./s1
